US09388161B2
A 100-mL, round-bottom flask was charged with (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.170 g, 0.60 mmol), 2-chloro-7-(tetrahydro-2H-pyran-2-yl)-7H-purine (0.200 g, 0.84 mmol), potassium carbonate (0.247 g, 1.79 mmol) and N,N-dimethylformamide (6 mL). The resulting mixture stirred overnight at 110° C. After cooling to room temperature, the reaction mixture was filtered, and the filtrate was concentrated under vacuum. The residue was purified by preparative thin layer chromatography (eluting with 1:1, ethyl acetate/petroleum ether) to afford 1-((S)-6-bromo-2-methyl-5-(7-(tetrahydro-2H-pyran-2-yl)-7H-purin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.200 g, 69%) as yellow oil. MS (ESI, pos. ion) m/z 486, 488 [M+H]+.

reactant | (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.60 mmol, 0.170 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | 2-chloro-7-(tetrahydro-2H-pyran-2-yl)-7H-purine | 0.84 mmol, 0.200 g | ClC1=NC=C2N(C=NC2=N1)C1OCCCC1 | C10H11ClN4O
reactant | potassium carbonate | 1.79 mmol, 0.247 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 1-((S)-6-bromo-2-methyl-5-(7-(tetrahydro-2H-pyran-2-yl)-7H-purin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.200 g, 69% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=NC=C2N(C=NC2=N1)C1OCCCC1 | C22H24BrN5O3
